US06440965B1
A solution of of 5-(4-chlorophenoxy)-2-(methylmercapto)pyrimidin-4(3H)-one (158 g, 5.87 mmoles) and 1-methylpiperazine (Aldrich) (6.1 mL, 55 mmoles) was heated at 135° C. for 18 hours. The dark brown mixture was spin evaporated in vacuo. The residue was dissolved in ethyl acetate and applied to a column (d=5 cm) of Silica Gel 80 that was equilibrated with ethyl acetate. The column was eluted with ethyl acetate by flash chromatography to remove unreacted starting material. Elution with 10% methanol-dichloromethane and spin evaporation in vacuo of the combined fractions gave a beige solid that was triturated with ethyl acetate to give 0.70 g (37% yield) of 5-(4-chlorophenoxy)-2-(4-methylpiperazino)pyrimidin-4(3H)-one. Recrystallization from ethyl acetate gave off-white flakes that had an NMR spectrum consistent with the assigned structure.

reactant | 5-(4-chlorophenoxy)-2-(methylmercapto)pyrimidin-4(3H)-one | 5.87 mmoles, 158 g | ClC1=CC=C(OC=2C(NC(=NC2)SC)=O)C=C1 | C11H9ClN2O2S
reactant | 1-methylpiperazine | 55 mmoles, 6.1 mL | CN1CCNCC1 | C5H12N2
product | 5-(4-chlorophenoxy)-2-(4-methylpiperazino)pyrimidin-4(3H)-one | 0.70 g, 37% yield | ClC1=CC=C(OC=2C(NC(=NC2)N2CCN(CC2)C)=O)C=C1 | C15H17ClN4O2
